US05552398
eq-Quinolizidin-2-ylmethyl 1-cyclohexylmethylindole-3-carboxylate (E29)
eq-Quinolizidin-2-ylmethyl indole-3-carboxylate (E9b) was alkylated with cyclohexylmethyl bromide using the method of Example 18. The product was chromatographed on silica gel eluting initially with ether, then with ethyl acetate, to afford a colourless oil, which crystallised from n-pentane to give the title compound (E29) as a white solid mp 98°-100° C.

reactant | Quinolizidin-2-ylmethyl indole-3-carboxylate | N1C=C(C2=CC=CC=C12)C(=O)OCC1CC2CCCCN2CC1 | C19H24N2O2
reactant | cyclohexylmethyl bromide | C1(CCCCC1)CBr | C7H13Br
product | Quinolizidin-2-ylmethyl 1-cyclohexylmethylindole-3-carboxylate | C1(CCCCC1)CN1C=C(C2=CC=CC=C12)C(=O)OCC1CC2CCCCN2CC1 | C26H36N2O2
